US09163021B2
[4-(Trifluoromethyl)-1H-pyrazol-1-yl]acetic acid
Trifluoroacetic acid (10 mL) was added to tert-butyl[4-(trifluoromethyl)-1H-pyrazol-1-yl]acetate (Preparation 77, 1.3 g, 5.2 mmol) in dry DCM (10 mL) and the mixture was stirred for 18 hours at 25° C. Then the mixture was evaporated in vacuo and the residue was purified by trituration with diethyl ether:pentane (1:9, 2 mL) to afford the title compound as a white solid (79%, 800 mg).

reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl[4-(trifluoromethyl)-1H-pyrazol-1-yl]acetate | 5.2 mmol, 1.3 g | C(C)(C)(C)OC(CN1N=CC(=C1)C(F)(F)F)=O | C10H13F3N2O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [4-(Trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 800 mg, 79% | FC(C=1C=NN(C1)CC(=O)O)(F)F | C6H5F3N2O2
